US07122545B2
A mixture of 0.10 g 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-2-thiophen-2-yl-ethyl)-amide and 0.32 g ammonium triflouroacetate was melted at 165° C. for 60 minutes and, after cooling to room temperature, suspended in water. Extraction with dichloromethane and chromatography on silicagel with ethylacetate/hexane 1:1 gave 0.02 g (25%) 4-methoxy-7-morpholin-4-yl-2-(4-thiophen-2-yl-1H-imidazol-2-yl)-benzothiazole as yellow solid; MS (ISP): m/e=399 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-2-thiophen-2-yl-ethyl)-amide | 0.10 g | O=C(CNC(=O)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)C=2SC=CC2 | C19H19N3O4S2
reactant | ammonium triflouroacetate | 0.32 g | FC(C(=O)[O-])(F)F.[NH4+]
solvent | water | O | H2O
product | 4-methoxy-7-morpholin-4-yl-2-(4-thiophen-2-yl-1H-imidazol-2-yl)-benzothiazole | 0.02 g, 25% | COC1=CC=C(C2=C1N=C(S2)C=2NC=C(N2)C=2SC=CC2)N2CCOCC2 | C19H18N4O2S2
